US06982348B2
To a solution of ethyl (2RS,3RS)-3-(4-fluorophenyl)-2-((3-fluoro-4-(trifluoromethyl)phenyl)methyl)-3-hydroxypropionate (9.9 g, 25.5 mmol) in methanol (40 ml) was added 2N aqueous sodium hydroxide solution (25.5 ml, 51.0 mmol) and the mixture was stirred overnight at room temperature. The reaction solution was acidified with 1N hydrochloric acid and extracted with ethyl acetate (200 ml×2). The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give (2RS,3RS)-3-(4-fluorophenyl)-2-((3-fluoro-4-(trifluoromethyl)phenyl)methyl)-3-hydroxypropionic acid (8.3 g, 90%).

reactant | ethyl (2RS,3RS)-3-(4-fluorophenyl)-2-((3-fluoro-4-(trifluoromethyl)phenyl)methyl)-3-hydroxypropionate | 25.5 mmol, 9.9 g | FC1=CC=C(C=C1)C(C(C(=O)OCC)CC1=CC(=C(C=C1)C(F)(F)F)F)O | C19H17F5O3
reactant | sodium hydroxide | 51.0 mmol, 2N, 25.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
product | (2RS,3RS)-3-(4-fluorophenyl)-2-((3-fluoro-4-(trifluoromethyl)phenyl)methyl)-3-hydroxypropionic acid | 8.3 g, 90% | FC1=CC=C(C=C1)C(C(C(=O)O)CC1=CC(=C(C=C1)C(F)(F)F)F)O | C17H13F5O3
